US04518713
To a suspension of sodium bicarbonate (34 g, 0.040 mol), 400 ml of methylene chloride and bromoacetyl bromide (15.7 ml, 36.5 g, 0.176 mol) cooled by an ice/salt bath was added dropwise a solution of 4-m-chlorophenoxypiperidine (34.9 g, 0.165 mol) in 400 ml of methylene chloride. The reaction mixture was stirred 1 hour at 0° and 3 hours at room temperature. The reaction mixture was poured into water, extracted with methylene chloride, and the extract was washed with water, 3N HCl, saturated sodium bicarbonate and saturated sodium chloride. Evaporation of the solvent provided N-(2-bromoacetyl)-4-(m-chlorophenoxy)piperidine.

reactant | sodium bicarbonate | 0.040 mol, 34 g | C([O-])(O)=O.[Na+]
reactant | bromoacetyl bromide | 0.176 mol, 15.7 ml, 36.5 g | BrCC(=O)Br | C2H2Br2O
reactant | 4-m-chlorophenoxypiperidine | 0.165 mol, 34.9 g | ClC=1C=C(OC2CCNCC2)C=CC1 | C11H14ClNO
reactant | water | O | H2O
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | N-(2-bromoacetyl)-4-(m-chlorophenoxy)piperidine | BrCC(=O)N1CCC(CC1)OC1=CC(=CC=C1)Cl | C13H15BrClNO2
